US07323475B2
[(1-Bromo-4-hydroxy-6-phenylsulfanyl-isoquinoline-3-carbonyl)-amino]-acetic acid
216 mg of 1-bromo-4-hydroxy-6-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester (0.5 mmol) from Example D-2a) were reacted with glycine and sodium methylate analogously to Example D-1 g). 194 mg of the title compound were obtained; 1H NMR (DMSO-d6): δ=9.17 (t, 1H), 8.12 (d, 1H), 7.51 to 7.78 (m, 7H), 4.00 (d, 2H).

reactant | 1-bromo-4-hydroxy-6-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester | 0.5 mmol, 216 mg | C(CCC)OC(=O)C=1N=C(C2=CC=C(C=C2C1O)SC1=CC=CC=C1)Br | C20H18BrNO3S
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | sodium methylate | C[O-].[Na+]
product | [(1-Bromo-4-hydroxy-6-phenylsulfanyl-isoquinoline-3-carbonyl)-amino]-acetic acid | 194 mg | BrC1=NC(=C(C2=CC(=CC=C12)SC1=CC=CC=C1)O)C(=O)NCC(=O)O | C18H13BrN2O4S
